US08389523B2
2.9 g (9 mmol) of ethyl 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate was dissolved in 1,4-dioxane (30 mL). A solution in which 1.8 g (13 mmol) of potassium carbonate was dissolved in water (60 mL) was prepared, and was added to the reaction solution at room temperature, and then the mixture was stirred for one hour at 50° C. After confirming the completion of the reaction, the reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. Water (50 mL) was added, and then the reaction solution was cooled to 0° C., and adjusted to pH 1 using 6 N hydrochloric acid. Subsequently, a solid was separated by filtration and dried, to obtain 2.6 g (yield: 98%) of 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylic acid as yellow crystals.

reactant | ethyl 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate | 9 mmol, 2.9 g | COC1=CC=C(C=C1)N1C2=C(N=C(C1=O)C(=O)OCC)C=CC=N2 | C17H15N3O4
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 60 mL | O | H2O
product | 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylic acid | 2.6 g, yield: 98% | COC1=CC=C(C=C1)N1C2=C(N=C(C1=O)C(=O)O)C=CC=N2 | C15H11N3O4
